US05196534
5,6-Dihydro-4-(2-methyl-2-phenylhydrazino)-2(1H)-pyridinone
A mixture of 3-piperidinecarboxylic acid, 2,4-dioxo-, methyl ester (10.0 g) in industrial methylated spirits and water (1:1) (50 ml) and 5M aqueous hydrochloric acid (0.4 ml) was heated at 50°-55° for 30 min, and then heated at reflux for 1.5 h. The resulting mixture was cooled to room temperature and treated with 1-methyl-1-phenylhydrazine sulphate (2:1) (9.9 g) and 5M aqueous sodium hydroxide (11.6 ml). Water (5.5 ml) was added, and more water (33 ml) was added slowly over 45 min. The resultant solid was filtered off, washed with water (3×8 ml) and dried in vacuo at 43° to give the title compound (10.7 g), m.p. 180°-181°.

reactant | 3-piperidinecarboxylic acid | N1CC(CCC1)C(=O)O | C6H11NO2
reactant | 1-methyl-1-phenylhydrazine sulphate | 9.9 g | S(=O)(=O)(O)O.CN(N)C1=CC=CC=C1
reactant | sodium hydroxide | 5M, 11.6 ml | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | hydrochloric acid | 5M, 0.4 ml | Cl | ClH
solvent | water | 33 ml | O | H2O
solvent | Water | 5.5 ml | O | H2O
product | 5,6-Dihydro-4-(2-methyl-2-phenylhydrazino)-2(1H)-pyridinone | 10.7 g | CN(NC1=CC(NCC1)=O)C1=CC=CC=C1 | C12H15N3O
